US04206219
Following the procedure described for the preparation of 8-oxo-2,2,5,7-tetramethyl-7-(1-o-nitrobenzylcarbonyldioxymethyl)-3-oxa-1-azabicyclo[4.2.0]octane from 8-oxo-2,2,5,7-tetramethyl-7-(1-hydroxymethyl)-3-oxa-1-azabicyclo[4.2.0]octane and using 3-methyl-1-(2-tetrahydropyranyl)-3-(hydroxymethyl)-4-[1-methyl-2-(2-tetrahydropyranyl)oxyethyl]-2-azetidinone there is obtained 3-methyl-1-(2-tetrahydropyranyl)-3-(o-nitrobenzylcarbonyldioxymethyl)-4-[1-methyl-2-(2-tetrahydropyranyl)oxyethyl]-2-azetidinone.

reactant | 8-oxo-2,2,5,7-tetramethyl-7-(1-o-nitrobenzylcarbonyldioxymethyl)-3-oxa-1-azabicyclo[4.2.0]octane | O=C1C(C2C(COC(N12)(C)C)C)(COOC(=O)CC1=C(C=CC=C1)[N+](=O)[O-])C | C19H24N2O7
reactant | 8-oxo-2,2,5,7-tetramethyl-7-(1-hydroxymethyl)-3-oxa-1-azabicyclo[4.2.0]octane | O=C1C(C2C(COC(N12)(C)C)C)(CO)C | C11H19NO3
reactant | 3-methyl-1-(2-tetrahydropyranyl)-3-(hydroxymethyl)-4-[1-methyl-2-(2-tetrahydropyranyl)oxyethyl]-2-azetidinone | CC1(C(N(C1C(COC1OCCCC1)C)C1OCCCC1)=O)CO | C18H31NO5
product | 3-methyl-1-(2-tetrahydropyranyl)-3-(o-nitrobenzylcarbonyldioxymethyl)-4-[1-methyl-2-(2-tetrahydropyranyl)oxyethyl]-2-azetidinone | CC1(C(N(C1C(COC1OCCCC1)C)C1OCCCC1)=O)COOC(=O)CC1=C(C=CC=C1)[N+](=O)[O-] | C26H36N2O9
